US04752645
(F) (cis)-1-[2-(Dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride
To a solution of 1,3,4,5-tetrahydro-4-(methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one (3.37 g; 9.65 mmole) in dry dimethylformamide 75 ml) was added prewashed (hexane) 50% sodium hydride (5.56 g; 11.58 mmole; 1.2 eq.) with stirring. After ~20 minutes, 1.7N (in toluene) N,N-dimethyl-2-chloroethylamine (24.0 ml; 40.8 mmole) was added, and the mixture was heated at 85° C. for four hours. The mixture was made basic with 50% sodium hydride, and extracted with ethyl acetate (three times). The combined organics were dried (magnesium sulfate) and concentrated, and the dark oily residue was placed under vacuum. The crude material was flash chromatographed (silica gel/1% methanol:dichloromethane, followed by 3% methanol:dichloromethane). The acidified (hydrogen chloride saturated ether) product weighed 1.06 g.

reactant | 1,3,4,5-tetrahydro-4-(methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 9.65 mmole, 3.37 g | COC1=C(C=CC=C1)C1C(C(NC2=C(C1)C=C(C=C2)C(F)(F)F)=O)C | C19H18F3NO2
reactant | sodium hydride | 11.58 mmole, 5.56 g, 1.2 eq. | [H-].[Na+]
reactant | N,N-dimethyl-2-chloroethylamine | 40.8 mmole, 1.7N, 24.0 ml | CN(C)CCCl | C4H10ClN
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | (cis)-1-[2-(Dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride | Cl.CN(CCN1C([C@H]([C@H](CC2=C1C=CC(=C2)C(F)(F)F)C2=CC=C(C=C2)OC)C)=O)C | InChI=1S/C23H27F3N2O2.ClH/c1-15-20(16-5-8-19(30-4)9-6-16)14-17-13-18(23(24,25)26)7-10-21(17)28(22(15)29)12-11-27(2)3;/h5-10,13,15,20H,11-12,14H2,1-4H3;1H/t15-,20-;/m0./s1
